* source AMPLIFICADOR CLASE G
R_R12         0 N01924  10k  
V_Vin         N00224 0  
+SIN 0 1 1k 0 0 0
C_C3         N03066 N03017  10n  
V_V2         V++ 0 50Vdc
R_R24         V-- 4  82k  
R_R26         VOUT N20284  0.22  
Q_Q25         N01924 N09650 V++ QbreakP 
R_R22         0 VOUT  8  
V_V3         0 V-- 50Vdc
R_R18         V-- V--  10k  
R_R31         N20926 VOUT  0.22  
R_R20         N03017 2  100  
R_R2         0 IN  1k  
Q_Q2         N011050 N01924 N01875 QbreakP 
Q_Q30         N04579 N01924 N02344 QbreakP 
Q_Q39         V-- N20654 N20396 QbreakP 
R_R21         N03066 5  100  
Q_Q37         V-- 5 N20472 QbreakP 
R_R28         3 N20284  1.5k  
C_C6         N01654 N145391  1  
R_R30         N20472 VOUT  100  
D_D1         N02928 N04579 Dbreak 
R_R29         4 N20926  1k  
Q_Q7         N01253 IN N00909 QbreakP 
D_D2         N04333 N03066 Dbreak 
R_R6         V-- N09051  100  
R_R4         N00909 N01211  100  
C_C4         N01253 N04333  33p  
Q_Q26         N01253 N09455 V-- QbreakN 
V_V4         N20400 0 20Vdc
R_R16         N145391 0  1k  
Q_Q28         N04333 V-- N03862 QbreakN 
R_R7         V-- N09194  100  
R_R27         VOUT N20288  100  
Q_Q33         V++ 1 N20504 QbreakN 
D_D5         2 N08463 D1N4148 
R_R9         N01875 V++  330  
D_D9         N20396 N20334 D1N5819 
R_R5         N00912 N01211  100  
Q_Q20         N01180 N01180 N09194 QbreakN 
R_R8         N01211 N011050  1k  
Q_Q35         V++ 2 N20288 QbreakN 
C_C5         VOUT N01654  1p  
R_R13         N03017 N02928  10  
Q_Q13         N01180 N01654 N00912 QbreakP 
R_R1         N00224 N00259  50  
D_D6         N047380 5 D1N4148 
R_R19         V-- N03862  10  
D_D3         N04579 1 D1N5819 
R_R3         VOUT N01654  22k  
Q_Q40         V-- 6 N20654 QbreakP 
Q_Q23         N01253 N01180 N09051 QbreakN 
D_D8         N20400 N20510 D1N5819 
C_C1         N00259 IN  1  
Q_Q31         N047380 4 VOUT QbreakP 
R_R25         N20510 N20504  100  
R_R10         N02344 V++  39  
D_D4         6 N04333 D1N5819 
R_R14         N03017 N02928  1k  
V_V5         0 N20334 20Vdc
C_C2         N01924 V++  1p  
R_R11         N02344 N09650  1k  
R_R15         N03066 N03017  1k  
Q_Q34         V++ N20504 N20510 QbreakN 
Q_Q27         0 N01253 V-- QbreakN 
R_R17         N09455 N03862  220k  
Q_Q32         N08463 3 VOUT QbreakN 
Q_Q29         N03017 N03017 N03066 QbreakN 
R_R23         3 V++  220k  
Q_Q38         N20396 N20472 N20926 QbreakP 
R_R32         N20654 N20396  100  
Q_Q36         N20510 N20288 N20284 QbreakN 
