* source AMPLIFICADOR CLASE G
R_R12         N30823 N01924  10k  
V_Vin         N00224 0  
+SIN 0 1 1k 0 0 0
Q_Q21         V-- 6 N20654 MJE34
C_C3         N03066 N03017  10n  
Q_Q10         N03017 N03017 N03066 MPSA06
V_V2         V++ 0 50Vdc
Q_Q13         N047380 4 7 MPSA56
R_R24         V-- 4  56k  
R_R35         7 VOUT  10  
C_C8         0 N03285  330p  
Q_Q4         N01180 N01180 N09194 MPSA06
R_R26         7 N20284  0.22  
R_R22         0 VOUT  8  
V_V3         0 V-- 50Vdc
R_R18         N03285 N03285  10k  
C_C11         V++ 0  220p  
R_R31         N20926 7  0.22  
R_R20         N03017 2  100  
R_R2         0 IN  22k  
Q_Q14         V++ 1 N20504 MJE340
Q_Q12         N08463 3 7 MPSA06
Q_Q9         N04579 N01924 N02344 MPSA56
R_R21         N03066 5  100  
Q_Q5         N011050 N01924 N01875 MPSA56
Q_Q3         N01253 N01180 N09051 MPSA06
R_R28         3 N20284  100  
C_C6         N01654 N145391  1  
C_C13         N30823 V++  220p  
R_R30         N20472 7  100  
D_D1         N02928 N04579 Dbreak 
Q_Q1         N01253 IN N00909 MPSA56
R_R29         4 N20926  100  
D_D2         N04333 N03066 Dbreak 
R_R6         N03285 N09051  100  
R_R4         N00909 N01211  100  
C_C4         N01253 N04333  150p  
V_V4         N20400 0 20Vdc
C_C7         0 N03285  100p  
R_R16         N145391 0  1k  
Q_Q16         V++ 2 N20288 MJE340
R_R7         N03285 N09194  100  
R_R27         7 N20288  100  
D_D5         2 N08463 D1N4148 
R_R9         N01875 V++  330  
Q_Q11         N04333 N03285 N03862 MPSA06
D_D9         N20396 N20334 D1N5819 
R_R5         N00912 N01211  100  
R_R8         N01211 N011050  1k  
Q_Q17         N20510 N20288 N20284 Q2SC3281 
Q_Q2         N01180 N01654 N00912 MPSA56
C_C5         VOUT N01654  1p  
R_R13         N03017 N02928  16  
R_R34         N319671 7  10  
R_R1         N00224 N00259  50  
D_D6         N047380 5 D1N4148 
R_R19         N03285 N03862  10  
Q_Q19         V-- 5 N20472 MJE34
D_D3         N04579 1 D1N5819 
C_C14         0 N20400  220p  
Q_Q18         N20396 N20472 N20926 Q2SA1302 
R_R3         VOUT N01654  22k  
R_R33         N03285 V--  10  
Q_Q8         N01924 N09650 V++ MPSA56
D_D8         N20400 N20510 D1N5819 
L_L1         7 VOUT  100u  
C_C1         N00259 IN  1  
R_R36         0 N30823  10k  
R_R25         N20510 N20504  100  
C_C9         0 V--  100n  
R_R10         N02344 V++  39  
D_D4         6 N04333 D1N5819 
R_R14         N03017 N02928  3.3k  
Q_Q6         N01253 N09455 N03285 MPSA06
Q_Q7         0 N01253 N03285 MPSA06
Q_Q20         V-- N20654 N20396 Q2SA1302 
V_V5         0 N20334 20Vdc
C_C16         0 N319671  100n  
C_C2         N01924 V++  1p  
R_R11         N02344 N09650  2.2k  
R_R15         N03066 N03017  1.15k  
C_C15         0 N20334  220p  
C_C12         V++ 0  100n  
R_R17         N09455 N03862  82k  
Q_Q15         V++ N20504 N20510 Q2SC3281 
R_R23         3 V++  150k  
R_R32         N20654 N20396  100  
C_C10         0 V--  220p  
